US04483952
A reactor was charged with 106 g (1 mole) of benzaldehyde, 270 g (1 mole) of a 70% aqueous solution of D-sorbitol and 20 g of 50% sulfuric acid, and they were reacted at 15° C. with stirring. Thirty minutes after the formation of fine crystals in the mixture within the reactor, the torque of the stirrer became about 3 times as high as that at the start of the reaction. At this time, the amount of monobenzylidene sorbitol formed was 42% of theory.

reactant | benzaldehyde | 1 mole, 106 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | D-sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
product | monobenzylidene sorbitol | C(C1=CC=CC=C1)=C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C13H18O6
